US07465795B2
4-amino-N-cyclopropyl-8-(2-methoxypyridin-3-yl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide (143 mg, 0.47 mmol) and 2-methoxypyridine-3-boronic acid (142 mg, 0.94 mmol) were reacted. After purification the title compound (118 mg, 76% yield) was obtained as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.04(d, J=4.9 Hz, 1H), 8.43 (m, 1H), 8.24 (d, J=5.0 Hz, 1H), 7.77 (m, 2H), 7.71 (a d, J=7.2 Hz, 1H), 7.71 (a dd, J=5.1, 7.2 Hz, 1H), 3.73 (s, 3H), 2.95 (m, 1H), 0.67 (m, 4H). MS APCI, m/z=336.

reactant | 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide | 0.47 mmol, 143 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CC1 | C12H11BrN4O
reactant | 2-methoxypyridine-3-boronic acid | 0.94 mmol, 142 mg | COC1=NC=CC=C1B(O)O | C6H8BNO3
product | 4-amino-N-cyclopropyl-8-(2-methoxypyridin-3-yl)cinnoline-3-carboxamide | 118 mg, 76% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C(=NC=CC1)OC)C(=O)NC1CC1 | C18H17N5O2
